US07777047B2
ethyl 7-amino-6-chloro-1H-indole-2-carboxylate
A mixture of ethyl 7-amino-1H-indole-2-carboxylate (2.30 g), N-chlorosuccinimide (1.40 g) and N,N-dimethylformamide (10 ml) was stirred overnight at room temperature. Water was added to the reaction mixture, and the resulting crystals were collected by filtration, washed with water, and dried. The obtained crystals were subjected to silica gel column chromatography to give the title compound (1.59 g, yield 63%) as pale-yellow crystals from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio). melting point 217-218° C. (decomposition).

reactant | ethyl 7-amino-1H-indole-2-carboxylate | 2.30 g | NC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H12N2O2
reactant | N-chlorosuccinimide | 1.40 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 7-amino-6-chloro-1H-indole-2-carboxylate | 1.59 g, yield 63% | NC=1C(=CC=C2C=C(NC12)C(=O)OCC)Cl | C11H11ClN2O2
